US06951870B2
(a) 6,7-Dihydroxy-3-(2H-tetrazol-5-yl)-chromen-2-one
A mixture of 2,4,5-trihydroxybenzaldehyde (1.23 g), (2H-tetrazol-5-yl)-acetic acid ethyl ester (1.25 g), piperidine (1.36 g) and acetic acid (0.06 g) in DMF (10 ml) was stirred at 90° C. under nitrogen for two hours. After ice water treatment and acidification to pH 2 the product was filtered and triturated with hot ethanol. Yield: 0.55 g.

reactant | 2,4,5-trihydroxybenzaldehyde | 1.23 g | OC1=C(C=O)C=C(C(=C1)O)O | C7H6O4
reactant | (2H-tetrazol-5-yl)-acetic acid ethyl ester | 1.25 g | C(C)OC(CC=1N=NNN1)=O | C5H8N4O2
reactant | piperidine | 1.36 g | N1CCCCC1 | C5H11N
reactant | acetic acid | 0.06 g | C(C)(=O)O | C2H4O2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 6,7-Dihydroxy-3-(2H-tetrazol-5-yl)-chromen-2-one | OC=1C=C2C=C(C(OC2=CC1O)=O)C=1N=NNN1 | C10H6N4O4
